US06194409B1
63e. 7-Methoxy-1,2,3,4-tetrahydro-isoquinoline
At 5° C., 50 mL of a saturated solution of hydrogen chloride in diethyl ether were added dropwise to a mixture of 2.3 g of 7-methoxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester in 50 mL of diethyl ether and the reaction mixture stirred for 2 hours at room temperature. The precipitated product (hydrochloride) was separated by filtration, washed with diethyl ether and dried in vacuo. Yield: 1.5 g (7.5 mmol); m.p. 215-218° C.; EI-MS: 163 (M+).

reactant | hydrogen chloride | Cl | ClH
reactant | 7-methoxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 2.3 g | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2CC1)OC | C15H21NO3
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | 7-Methoxy-1,2,3,4-tetrahydro-isoquinoline | COC1=CC=C2CCNCC2=C1 | C10H13NO
